US08871790B2
Compound 466.1. Tetrahydrofuran-3,4-diyl dimethanesulfonate
Into a round-bottom flask, was placed a solution of tetrahydrofuran-3,4-diol (500 mg, 4.80 mmol, 1.00 equiv) and triethylamine (1.45 g, 14.3 mmol, 3.00 equiv) in dichloromethane (8 mL). The mixture was cooled to 0-5° C. and a solution of methanesulfonyl chloride (1.40 g, 12.2 mmol, 2.50 equiv) in dichloromethane (2 mL) was added drop-wise. The solution was stirred at room temperature for 2 h, and then diluted with dichloromethane (100 mL). The solution was washed with aqueous NH4Cl (2×30 mL) then brine (30 mL), dried (Na2SO4), filtered and concentrated in vacuum to obtain the title compound as a brown solid (1.00 g, 72%).

reactant | tetrahydrofuran-3,4-diol | 4.80 mmol, 500 mg, 1.00 equiv | O1CC(C(C1)O)O | C4H8O3
reactant | triethylamine | 14.3 mmol, 1.45 g, 3.00 equiv | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 12.2 mmol, 1.40 g, 2.50 equiv | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 8 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | Tetrahydrofuran-3,4-diyl dimethanesulfonate | 1.00 g, 72% | CS(=O)(=O)OC1COCC1OS(=O)(=O)C | C6H12O7S2
